US04933369
2-[4-[(phenylmethyl)thio]butyl]-1H-isoindole-1,3(2H)-dione
Benzyl mercaptan (8.2 g, 66.4 mmol) was reacted with sodium hydride (52.4% in oil, 3.35 g, 73.0 mmol), and then with N-(4-bromobutyl)-phthalimide (19.7 g, 69.7 mmol) as described in Example A, to give the title compound. NMR (CDCl3): thiobenzyl methylene, and methylene bonded to nitrogen, both at δ 3.7. Methylene bonded to sulfur at δ 2.4.

reactant | Benzyl mercaptan | 66.4 mmol, 8.2 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydride | 73.0 mmol, 3.35 g | [H-].[Na+]
reactant | N-(4-bromobutyl)-phthalimide | 69.7 mmol, 19.7 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
product | 2-[4-[(phenylmethyl)thio]butyl]-1H-isoindole-1,3(2H)-dione | C1(=CC=CC=C1)CSCCCCN1C(C2=CC=CC=C2C1=O)=O | C19H19NO2S
